US05354782
Step a: 3,5-Di-t-butyl-4-hydroxy-nitrobenzene
Dissolve 2,6-di-t-butylphenol (721 mg, 3.5 mmol) in methylene chloride (10 mL) and cool to -60° C. Add, by dropwise addition, a solution of nitronium tetrafluoroborate (25 mL of a 0.5M solution in sulfolane, 12.5 mmol) in methylene chloride (15 mL). Warm slowly to 10° C. and partition between methylene chloride (75 mL) and water (75 mL). Separate the aqueous phase and extract with methylene chloride (50 mL). Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo. Purify and separate by flash silica gel chromatography to give the title compound.

reactant | 2,6-di-t-butylphenol | 3.5 mmol, 721 mg | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | nitronium tetrafluoroborate | F[B-](F)(F)F.O=[N+]=O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 3,5-Di-t-butyl-4-hydroxy-nitrobenzene | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)[N+](=O)[O-] | C14H21NO3
